### PR TITLE
Add Erdős Problem 607 (sets of line multiplicities), link the formal proof

### LINKED ISSUE #6345: Erdős Problem 607
### What is the Erdős problem?

https://www.erdosproblems.com/607

For a set of $n$ points $P\subset \mathbb{R}^2$ let $\ell_1,\ldots,\ell_m$ be the lines determined by $P$, and let $A=\{\lvert \ell_1\cap P\rvert,\ldots,\lvert \ell_m\cap P\rvert\}$. Let $F(n)$ count the number of possible sets $A$ that can be constructed this way. Is it true that $F(n) \leq \exp(O(\sqrt{n}))$?

Status: proved (Szemerédi–Trotter [SzTr83]). A formal proof exists in plby/lean-proofs (`Erdos607.erdos_607`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6345.

### What changed
Adds `FormalConjectures/ErdosProblems/607.lean` with `determinedLines P` (as in `101.lean`), the multiplicity set `spectrum P = {|ℓ ∩ P| : ℓ determined by P}` and `F n` (the number of sets arising from `n`-point configurations):
- `erdos_607` (`research solved`, `answer(True)`, $250): `F(n) ≤ exp(O(√n))` (Szemerédi–Trotter [SzTr83]). Linked to plby/lean-proofs `Erdos607.erdos_607` (Codex and GPT-5.6 Sol; 3 Mathlib-only files).
- Sorry'd variant: the matching lower bound `F(n) ≥ exp(c√n)` ("easy to see" per Erdős).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos607.erdos_607` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby works with a finset of affine-line subtypes and counts spectra inside the powerset of `[2, n]`; the bridge identifies the spectra and the counts):

<details>
<summary>Bridge</summary>

```lean
open Filter Real EuclideanGeometry

namespace Bridge607

open Erdos607Plby in
lemma spectrum_eq (P : Finset ℝ²) :
    Erdos607.spectrum P = ↑(multiplicitySpectrum P) := by
  classical
  ext k
  simp only [Erdos607.spectrum, Erdos607.determinedLines, Set.mem_image, Set.mem_ofPred_eq,
    Finset.mem_coe, multiplicitySpectrum, Finset.mem_image, determinedLines, Finset.mem_attach,
    true_and, richness, pointsOn]
  constructor
  · rintro ⟨ℓ, ⟨p, hp, q, hq, hpq, rfl⟩, rfl⟩
    refine ⟨pairLine P ⟨(p, q), Finset.mem_offDiag.2 ⟨hp, hq, hpq⟩⟩, ⟨_, rfl⟩, ?_⟩
    congr 1
  · rintro ⟨ℓ, ⟨pq, rfl⟩, rfl⟩
    have hmem := Finset.mem_offDiag.1 pq.2
    refine ⟨(pairLine P pq).1, ⟨pq.1.1, hmem.1, pq.1.2, hmem.2.1, hmem.2.2, rfl⟩, ?_⟩
    congr 1

open Erdos607Plby in
lemma F_eq (n : ℕ) : Erdos607.F n = Erdos607Plby.F n := by
  unfold Erdos607.F Erdos607Plby.F
  have : {A | ∃ P : Finset ℝ², P.card = n ∧ Erdos607.spectrum P = A} =
      (fun B : Finset ℕ => (↑B : Set ℕ)) '' ↑(possibleSpectra n) := by
    ext A
    simp only [Set.mem_ofPred_eq, Set.mem_image, Finset.mem_coe, mem_possibleSpectra,
      IsRealizableSpectrum]
    constructor
    · rintro ⟨P, hP, rfl⟩
      exact ⟨_, ⟨P, hP, rfl⟩, (spectrum_eq P).symm⟩
    · rintro ⟨B, ⟨P, hP, rfl⟩, rfl⟩
      exact ⟨P, hP, spectrum_eq P⟩
  rw [this, Set.ncard_image_of_injective _ Finset.coe_injective, Set.ncard_coe_finset]

theorem erdos_607_bridge : type_of% Erdos607.erdos_607 := by
  show True ↔ _
  simp only [true_iff, F_eq]
  exact Erdos607Plby.erdos_607

#print axioms Erdos607Plby.erdos_607
#print axioms erdos_607_bridge

end Bridge607
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«607»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/607.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+
+@[expose] public section
+
+open Filter Real EuclideanGeometry
+
+namespace Erdos607
+
+/-- The lines determined by a finite set of points `P` in the plane. -/
+def determinedLines (P : Finset ℝ²) : Set (AffineSubspace ℝ ℝ²) :=
+  {affineSpan ℝ {p, q} | (p ∈ P) (q ∈ P) (_ : p ≠ q)}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/607.lean:39]: determinedLines is the same expression that 101.lean inlines as determined_lines. Put it in FormalConjecturesForMathlib/Geometry/2d.lean (with a lemma that each element is a line, i.e. has direction of finrank 1) and use it from both files.
